US05527791
Allyl 3-(3-Aminophenyl)propionate
3-(3-Aminophenyl)propionic acid (1 g, 6.06 mM) was dissolved in allyl alcohol (25 ml), and toluene-4-sulfonic acid (1.21 g, 6.36 mM) added. The mixture was heated to reflux, the distillate being passed through 3 Å molecular sieves, for 24 hours. After neutralisation of the mixture with triethylamine, the solvent was removed, the residue dissolved in ethyl acetate, and washed with water, aqueous NaHCO3, brine, and dried (MgSO4), to give title compound.

reactant | 3-(3-Aminophenyl)propionic acid | 6.06 mM, 1 g | NC=1C=C(C=CC1)CCC(=O)O | C9H11NO2
reactant | toluene-4-sulfonic acid | 6.36 mM, 1.21 g | C1(=CC=C(C=C1)S(=O)(=O)O)C | C7H8O3S
solvent | allyl alcohol | 25 ml | C(C=C)O | C3H6O
product | Allyl 3-(3-Aminophenyl)propionate | NC=1C=C(C=CC1)CCC(=O)OCC=C | C12H15NO2
